US04057573
Analogously to the description in Example 2, 0.4 g of 1-methyl-5-benzoyl-6-methoxy-indane-1-carboxylic acid methyl ester and 5 ml of 2 N sodium hydroxide solution in 15 ml of methanol give 1-methyl-5-benzoyl-6-methoxy-indane-1-carboxylic acid of melting point 135°-137° C (from ether-petroleum ether). The starting material can be obtained as follows:

reactant | sodium hydroxide | 2 N, 5 ml | [OH-].[Na+]
reactant | 1-methyl-5-benzoyl-6-methoxy-indane-1-carboxylic acid | CC1(CCC2=CC(=C(C=C12)OC)C(C1=CC=CC=C1)=O)C(=O)O | C19H18O4
reactant | methanol | 15 ml | CO | CH4O
product | 1-methyl-5-benzoyl-6-methoxy-indane-1-carboxylic acid methyl ester | 0.4 g | COC(=O)C1(CCC2=CC(=C(C=C12)OC)C(C1=CC=CC=C1)=O)C | C20H20O4
